US04409215
To a solution of diketene (1.3 ml) in methylene chloride (10 ml) was added dropwise a solution of bromine (1.24 g) in methylene chloride (10 ml) at -30° C. with stirring, and the stirring was continued at -20° C. for half an hour to prepare a solution of 4-bromoacetoacetyl bromide. This solution was added dropwise to a solution of benzhydryl 7-amino-3-methylthiomethyl-3-cephem-4-carboxylate (4.44 g) and trimethylsilylacetamide (5.46 g) in methylene chloride (100 ml) at -30° to -20° C. over a period of 5 minutes with stirring, and the stirring was continued at -10° C. for half an hour. After addition of water, the resultant mixture was adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate, followed by separating out the organic layer, which was washed with water and an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and then evaporated to dryness to give benzhydryl 7-( 4-bromoacetoacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate (6.0 g).

reactant | diketene | 1.3 ml | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 1.24 g | BrBr | Br2
reactant | 4-bromoacetoacetyl bromide | BrCC(CC(=O)Br)=O | C4H4Br2O2
reactant | benzhydryl 7-amino-3-methylthiomethyl-3-cephem-4-carboxylate | 4.44 g | NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H22N2O3S2
reactant | trimethylsilylacetamide | 5.46 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzhydryl 7-( 4-bromoacetoacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate | 6.0 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H25BrN2O5S2
